US08685977B2
2,5-difluoro-4-(2-methoxy-4-(trifluoromethoxy)phenoxy)benzonitrile
To a solution of 2-methoxy-4-(trifluoromethoxy)phenol (Preparation 54, 331 mg, 1.59 mmol) in dimethylsulfoxide (10 mL) was added 2,4,5-trifluorobenzonitrile (250 mg, 1.59 mmol) and potassium carbonate (220 mg, 1.59 mmol) This suspension was stirred for 18 hours at room temperature. The reaction mixture was quenched with saturated aqueous ammonium chloride solution (20 mL), and extracted with dichloromethane (3×40 mL). The combined organic layers were dried over sodium sulphate, filtered and evaporated to afford the title compound as a clear oil (549 mg, 100%). This was used in the next reaction with no further purification.

reactant | 2-methoxy-4-(trifluoromethoxy)phenol | 1.59 mmol, 331 mg | COC1=C(C=CC(=C1)OC(F)(F)F)O | C8H7F3O3
reactant | 2,4,5-trifluorobenzonitrile | 1.59 mmol, 250 mg | FC1=C(C#N)C=C(C(=C1)F)F | C7H2F3N
reactant | potassium carbonate | 1.59 mmol, 220 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 2,5-difluoro-4-(2-methoxy-4-(trifluoromethoxy)phenoxy)benzonitrile | 549 mg, 100% | FC1=C(C#N)C=C(C(=C1)OC1=C(C=C(C=C1)OC(F)(F)F)OC)F | C15H8F5NO3
